US04533688
(b) 2-Chloro-4,6-bis[N-octadecyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine
A solution of 12.0 g of cyanuric chloride in 100 ml of xylene was added dropwise at 20°-25° C. to a solution of 54.0 g of 2,2,6,6-tetramethyl-4-(octadecylamino)piperidine in 200 ml of xylene. The resulting mixture was then heated under reflux for 8 hours, after which it was neutralised with an aqueous solution of potassium carbonate and then extracted with benzene. The extract was dried over anhydrous potassium carbonate and then the solvent was distilled off. The resulting residue was purified by column chromatography through silica gel, eluted with a 20:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine, to give the title compound in the form of crystals. These were recrystallised from ethyl acetate, giving the purified title compound in the form of colourless crystals melting at 68°-70° C.

reactant | cyanuric chloride | 12.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,2,6,6-tetramethyl-4-(octadecylamino)piperidine | 54.0 g | CC1(NC(CC(C1)NCCCCCCCCCCCCCCCCCC)(C)C)C | C27H56N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloro-4,6-bis[N-octadecyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)CCCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)C1CC(NC(C1)(C)C)(C)C | C57H110ClN7
